US04328347
C. 2-Methyl-3,4,5-trichloroisothiazolium hexafluorophosphate
Trichloroisothiazole (15 ml) and 6.2 g (0.03 mol) of trimethyloxomium hexafluorophosphate were heated at 90° for 1 hr under nitrogen. After cooling, ether (100 ml) was added and the solid collected to yield 6.3 g (61%) of product, mp >240. Spectral data (NMR and IR) were consistent with the assigned structure.

reactant | Trichloroisothiazole | 15 ml | ClC1=C(C(=NS1)Cl)Cl | C3Cl3NS
reactant | hexafluorophosphate | 0.03 mol, 6.2 g | F[P-](F)(F)(F)(F)F
reactant | ether | 100 ml | CCOCC | C4H10O
product | 2-Methyl-3,4,5-trichloroisothiazolium hexafluorophosphate | 6.3 g, 61% | F[P-](F)(F)(F)(F)F.C[N+]=1SC(=C(C1Cl)Cl)Cl | InChI=1S/C4H3Cl3NS.F6P/c1-8-3(6)2(5)4(7)9-8;1-7(2,3,4,5)6/h1H3;/q+1;-1
